US06107301
9[2-bromo-4(2-propyl)phenyl]-2-methyl-6-morpholinopurine
9[2-bromo-4(2-propyl)phenyl]-2-methyl-6-chloropurine (1.3 g) and morpholine (10 mL) were combined under nitrogen and refluxed for 6 hrs. The reaction mixture was concentrated by rotovap and the residue was purified by flash chromatography (CH2Cl2 :MeOH, 50:1, silica) to yield a yellow solid (0.54 g). MS (M+H)+ 416, 418.

reactant | 9[2-bromo-4(2-propyl)phenyl]-2-methyl-6-chloropurine | 1.3 g | BrC1=C(C=CC(=C1)C(C)C)N1C2=NC(=NC(=C2N=C1)Cl)C | C15H14BrClN4
reactant | morpholine | 10 mL | N1CCOCC1 | C4H9NO
product | 9[2-bromo-4(2-propyl)phenyl]-2-methyl-6-morpholinopurine | 0.54 g | BrC1=C(C=CC(=C1)C(C)C)N1C2=NC(=NC(=C2N=C1)N1CCOCC1)C | C19H22BrN5O
